US07989628B2
N2-(2-Methoxy-benzyl)-quinoline-2,5-diamine
(2-Methoxy-benzyl)-(5-nitro-quinolin-2-yl)-amine (2.2 g, 7.1 mmol) was dissolved in 100 mL methanol. Palladium on charcoal (10%, 150 mg, 0.14 mmol) was added and the reaction mixture war hydrogenated with a hydrogen balloon overnight. The palladium was filtered off and the solvent was evaporated. The title compound was obtained as a yellow solid (1.98 g, 100%), MS: m/e=280.4 (M+H+).

reactant | (2-Methoxy-benzyl)-(5-nitro-quinolin-2-yl)-amine | 7.1 mmol, 2.2 g | COC1=C(CNC2=NC3=CC=CC(=C3C=C2)[N+](=O)[O-])C=CC=C1 | C17H15N3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
catalyst | Palladium on charcoal | 0.14 mmol, 150 mg | [Pd] | Pd
product | N2-(2-Methoxy-benzyl)-quinoline-2,5-diamine | COC1=C(CNC2=NC=3C=CC=C(C3C=C2)N)C=CC=C1 | C17H17N3O
